US09340538B2
4-((6-(2-chloro-4-fluorophenyl)-5-(methoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid
Methyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (2.94 g, 6.6 mmol) (The compound was synthesized according to the procedure as described in WO2010069147A) was reacted with morpholine-3-carboxylic acid hydrochloride (1.1 g, 6.6 mmol) according to the procedure as described in Example 3 to give the title compound as a yellow solid (1.5 g, 46%). The compound was characterized by the following spectroscopic data:

reactant | Methyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 6.6 mmol, 2.94 g | BrCC1=C(C(N=C(N1)C=1SC=CN1)C1=C(C=C(C=C1)F)Cl)C(=O)OC | C16H12BrClFN3O2S
reactant | morpholine-3-carboxylic acid hydrochloride | 6.6 mmol, 1.1 g | Cl.N1C(COCC1)C(=O)O
product | 4-((6-(2-chloro-4-fluorophenyl)-5-(methoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid | 1.5 g, 46% | ClC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1C(COCC1)C(=O)O)C(=O)OC | C21H20ClFN4O5S
